### PR TITLE
feat(Analysis): radius of convergence for `FormalMultilinearSeries.compContinuousLinearMap`

### PR DESCRIPTION
**Pull request by vasnesterov**
- Add basic lemmas `compContinuousLinearMap_id` and `compContinuousLinearMap_comp`.  
- Prove lower and upper bounds for the convergence radius of `f.compContinuousLinearMap`.  
- Prove `radius_compNeg`: the convergence radii of `f(x)` and `f(-x)` are equal. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 1]
```diff
@@ -337,6 +340,98 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+    by_cases hr : p.radius = 0
+    · rw [hr]
+      simp
+    · rw [ENNReal.div_zero hr, top_le_iff]
+      apply FormalMultilinearSeries.radius_eq_top_of_forall_image_add_eq_zero _ 1
+      intro m
+      ext v
+      simp only [compContinuousLinearMap_apply, ContinuousMultilinearMap.zero_apply]
+      change (p (m + 1)) 0 = 0
+      simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:357]: You should first prove this as a separate lemma:
```
p.compContinuousLinearMap (0 : E →L[𝕜] F) = constFormalMultilinearSeries 𝕜 E (p 0 0) := sorry
```
and then this step follows rather trivially.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 2]
```diff
@@ -337,6 +340,98 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+  simp only [radius, ENNReal.iSup_div]
+  -- Maybe it should be separate lemma?
+  have h : ∀ n, ‖p.compContinuousLinearMap u n‖ ≤ ‖p n‖ * ‖u‖^n := by
+    intro
+    simp only [compContinuousLinearMap]
+    apply le_trans (ContinuousMultilinearMap.norm_compContinuousLinearMap_le _ _)
+    simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:364]: yes, this should definitely be a separate lemma.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 3]
```diff
@@ -337,6 +340,98 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+    · simp
+  have : p =
+      (p.compContinuousLinearMap u.toContinuousLinearMap).compContinuousLinearMap u.symm := by
+    simp [compContinuousLinearMap_comp]
+  conv => rhs; rw [this]
+  apply radius_compContinuousLinearMap_ge
+
+@[simp]
+theorem radius_compContinuousLinearMap_eq [Nontrivial E] [Nontrivial F]
+    (p : FormalMultilinearSeries 𝕜 F G) (u : E ≃ₛₗᵢ[.id _] F) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:408]: Why not use a `E ≃ₗᵢ[𝕜] F` here instead?

**Review by j-loreaux — COMMENTED** [review]
sorry, out of time for review now, but here are some things to get you started.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 4]
```diff
@@ -71,6 +72,8 @@ notion, describing the polydisk of convergence. This notion is more specific, an
 build the general theory. We do not define it here.
 -/
 
+set_option linter.style.longFile 1700
+
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Analysis/Analytic/Basic.lean]: I'm not confident enough to do this myself. Fortunately, if I merge master, this file will be under 1500 lines. Is that acceptable, or should I try to split it in a new PR anyway?

[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Basic.lean]: That's fine. I just don't want to add to the technical debt.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 5]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
   apply eq_of_le_of_le _ radius_le_smul
   exact radius_le_smul.trans_eq (congr_arg _ <| inv_smul_smul₀ hc p)
 
+lemma norm_compContinuousLinearMap_le {p : FormalMultilinearSeries 𝕜 F G} {u : E →L[𝕜] F} {n : ℕ} :
+    ‖p.compContinuousLinearMap u n‖ ≤ ‖p n‖ * ‖u‖^n := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:342]: Style, and I think these arguments should be explicit.
```
lemma norm_compContinuousLinearMap_le (p : FormalMultilinearSeries 𝕜 F G) (u : E →L[𝕜] F) (n : ℕ) :
    ‖p.compContinuousLinearMap u n‖ ≤ ‖p n‖ * ‖u‖ ^ n := by
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 6]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+  simp only [compContinuousLinearMap]
+  apply le_trans (ContinuousMultilinearMap.norm_compContinuousLinearMap_le _ _)
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:345]: It's nice to have an `nnnorm` version too.
```suggestion
  apply le_trans (ContinuousMultilinearMap.norm_compContinuousLinearMap_le _ _)
  simp

lemma nnnorm_compContinuousLinearMap_le (p : FormalMultilinearSeries 𝕜 F G)
    (u : E →L[𝕜] F) (n : ℕ) : ‖p.compContinuousLinearMap u n‖₊ ≤ ‖p n‖₊ * ‖u‖₊ ^ n :=
  norm_compContinuousLinearMap_le p u n
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 7]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+      _ ≤ (‖p n‖ * ‖u‖ ^ n) * (↑r / ‖u‖) ^ n := by
+        gcongr
+        apply norm_compContinuousLinearMap_le
+      _ ≤ _ := by
+        ring_nf
+        move_mul [← ‖u‖⁻¹ ^ n, ← ‖u‖ ^ n]
+        rw [← mul_pow, inv_mul_cancel₀]
+        · simpa using h1 n
+        · simpa using h_zero
+  · rw [ENNReal.coe_div h_zero]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:374]: I changed the name in part because I want the non-`div` version to be reserved for a version with `LinearIsometry`. Note that the proof uses a few nice tricks:
1. Dedicated dichotomy lemmas like `eq_zero_or_nnnorm_pos` allow you do do a direct replacement using `rfl` (or at least they give you better hypotheses in context).
2. Fooling with `ENNReal.div_le_iff` allows to apply `le_radius_of_bound` which avoids all the `iSup_mono` stuff.
```suggestion
theorem div_le_radius_compContinuousLinearMap (p : FormalMultilinearSeries 𝕜 F G) (u : E →L[𝕜] F) :
    p.radius / ‖u‖₊ ≤ (p.compContinuousLinearMap u).radius := by
  obtain (rfl | h_zero) := eq_zero_or_nnnorm_pos u
  · simp
  rw [ENNReal.div_le_iff (by simpa using h_zero) (by simp)]
  refine le_of_forall_nnreal_lt fun r hr ↦ ?_
  rw [← ENNReal.div_le_iff (by simpa using h_zero) (by simp), ← coe_div h_zero.ne']
  obtain ⟨C, hC_pos, hC⟩ := p.norm_mul_pow_le_of_lt_radius hr
  refine le_radius_of_bound _ C fun n ↦ ?_
  calc
    ‖p.compContinuousLinearMap u n‖ * ↑(r / ‖u‖₊) ^ n ≤ ‖p n‖ * ‖u‖ ^ n * ↑(r / ‖u‖₊) ^ n := by
      gcongr
      exact nnnorm_compContinuousLinearMap_le p u n
    _ = ‖p n‖ * r ^ n := by
      simp only [NNReal.coe_div, coe_nnnorm, div_pow, mul_assoc, norm_eq_zero]
      rw [mul_div_cancel₀]
      rw [← NNReal.coe_pos] at h_zero
      positivity
    _ ≤ C := hC n
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 8]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:375]: Do this version separately simplifies the `Equiv` version later, and it's handy to have this one.
```suggestion

theorem le_radius_compContinuousLinearMap (p : FormalMultilinearSeries 𝕜 F G) (u : E →ₗᵢ[𝕜] F) :
    p.radius ≤ (p.compContinuousLinearMap u.toContinuousLinearMap).radius := by
  obtain (h | h) := subsingleton_or_nontrivial E
  · simp [Subsingleton.elim u.toContinuousLinearMap 0]
  · simpa [u.norm_toContinuousLinearMap]
      using div_le_radius_compContinuousLinearMap p u.toContinuousLinearMap

```
In order for the above to work, you should add these `simp` lemmas next to their `norm` counterpart
```lean
@[simp]
theorem _root_.LinearIsometry.nnnorm_toContinuousLinearMap
    {𝕜 𝕜₂ E F : Type*} [NormedAddCommGroup E] [NormedAddCommGroup F] [NontriviallyNormedField 𝕜]
    [NontriviallyNormedField 𝕜₂] [NormedSpace 𝕜 E] [NormedSpace 𝕜₂ F] {σ₁₂ : 𝕜 →+* 𝕜₂}
    [Nontrivial E] [RingHomIsometric σ₁₂] (f : E →ₛₗᵢ[σ₁₂] F) :
    ‖f.toContinuousLinearMap‖₊ = 1 :=
  Subtype.ext f.norm_toContinuousLinearMap

@[simp]
theorem _root_.LinearIsometry.enorm_toContinuousLinearMap
    {𝕜 𝕜₂ E F : Type*} [NormedAddCommGroup E] [NormedAddCommGroup F] [NontriviallyNormedField 𝕜]
    [NontriviallyNormedField 𝕜₂] [NormedSpace 𝕜 E] [NormedSpace 𝕜₂ F] {σ₁₂ : 𝕜 →+* 𝕜₂}
    [Nontrivial E] [RingHomIsometric σ₁₂] (f : E →ₛₗᵢ[σ₁₂] F) :
    ‖f.toContinuousLinearMap‖ₑ = 1 :=
  congrArg _ f.nnnorm_toContinuousLinearMap
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 9]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+    rw [ENNReal.mul_inv_le_iff] at this
+    · convert this using 1
+      ring
+    · simpa using ContinuousLinearEquiv.norm_pos u.symm
+    · simp
+  have : p =
+      (p.compContinuousLinearMap u.toContinuousLinearMap).compContinuousLinearMap u.symm := by
+    simp [compContinuousLinearMap_comp]
+  conv => rhs; rw [this]
+  apply radius_compContinuousLinearMap_ge
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:392]: In this case, it's easier to just build the term you want to simplify by applying the earlier result.
```suggestion
  have := (p.compContinuousLinearMap u.toContinuousLinearMap).div_le_radius_compContinuousLinearMap
    u.symm.toContinuousLinearMap
  simp only [compContinuousLinearMap_comp, ContinuousLinearEquiv.coe_comp_coe_symm,
    compContinuousLinearMap_id] at this
  rwa [ENNReal.div_le_iff' (by simpa [DFunLike.ext_iff] using exists_ne 0) (by simp)] at this
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 10]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+        simp only [this, nnnorm_one, ← NNReal.coe_eq_one, coe_nnnorm]
+        conv => lhs; arg 1; change u.symm.toLinearIsometry.toContinuousLinearMap
+        simp only [LinearIsometry.norm_toContinuousLinearMap]
+      · assumption
+    · simp
+  · trans p.radius / ‖(1 : 𝕜)‖₊
+    · simp
+    convert FormalMultilinearSeries.radius_compContinuousLinearMap_ge _ _
+    symm
+    simp [← NNReal.coe_eq_one]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:413]: Note, I renamed the simp lemma because, although it's handy, it has a fairly specific form which will mean it doesn't often trigger. So, we supply an additional version which has less bundling (so can't be called by `simp`), but is easier to unify.

Note also, the providing the `LinearIsometry` version above allows us to cut down the work we do here.
```suggestion
@[simp]
theorem radius_compContinuousLinearMap_linearIsometryEquiv_eq [Nontrivial E]
    (p : FormalMultilinearSeries 𝕜 F G) (u : E ≃ₗᵢ[𝕜] F) :
    (p.compContinuousLinearMap u.toLinearIsometry.toContinuousLinearMap).radius = p.radius := by
  refine le_antisymm ?_ <| le_radius_compContinuousLinearMap _ _
  have _ : Nontrivial F := u.symm.toEquiv.nontrivial
  convert radius_compContinuousLinearMap_le p u.toContinuousLinearEquiv
  have : u.toContinuousLinearEquiv.symm.toContinuousLinearMap =
    u.symm.toLinearIsometry.toContinuousLinearMap := rfl
  simp [this]

/-- This is a version of `radius_compContinuousLinearMap_linearIsometryEquiv_eq` with better
opportunity for unification, at the cost of manually supplying some hypotheses. -/
theorem radius_compContinuousLinearMap_eq [Nontrivial E]
    (p : FormalMultilinearSeries 𝕜 F G) (u : E →L[𝕜] F) (hu_iso : Isometry u)
    (hu_surj : Function.Surjective u) :
    (p.compContinuousLinearMap u).radius = p.radius :=
  let v : E ≃ₗᵢ[𝕜] F :=
    { LinearEquiv.ofBijective u.toLinearMap ⟨hu_iso.injective, hu_surj⟩ with
      norm_map' := hu_iso.norm_map_of_map_zero (map_zero u) }
  radius_compContinuousLinearMap_linearIsometryEquiv_eq p v
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 11]
```diff
@@ -337,6 +338,88 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+
+@[simp]
+theorem radius_compNeg [Nontrivial E] (p : FormalMultilinearSeries 𝕜 E F) :
+    (p.compContinuousLinearMap (-(.id _ _))).radius = p.radius := by
+  conv =>
+    lhs; arg 1; arg 2
+    change (LinearIsometryEquiv.neg 𝕜).toLinearIsometry.toContinuousLinearMap
+  apply radius_compContinuousLinearMap_eq
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:421]: No need for rewriting here.
```suggestion
    (p.compContinuousLinearMap (-(.id _ _))).radius = p.radius :=
  radius_compContinuousLinearMap_linearIsometryEquiv_eq _ (.neg 𝕜)
```

**Review by j-loreaux — COMMENTED** [review]
@vasnesterov I'm sorry it took me so long to come back to this. I needed a decent chunk of time to sit and think about how to simplify things a bit. Sorry that this is less guided learning for you and is instead just a bunch of code, but hopefully you can still glean something from it.

**Comment by vasnesterov** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26255
